US05232924
(1) Phenyl N-(2-Bromoethyl)carbamate
To an ice-cooled suspension of 5.0 g of 2-bromoethylamine hydrobromide and 3.91 g of phenyl chloroformate in 50 ml of dichloromethane, 5.1 g of triethylamine was added. The mixture was stirred for 2 hours, and water was added thereto. The organic phase separated was concentrated to dryness under reduced pressure. The residue was crystallized with hexane to give 5.33 g of the entitled compound as colorless crystals.

reactant | 2-bromoethylamine hydrobromide | 5.0 g | Br.BrCCN
reactant | phenyl chloroformate | 3.91 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | triethylamine | 5.1 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Phenyl N-(2-Bromoethyl)carbamate | 5.33 g | BrCCNC(OC1=CC=CC=C1)=O | C9H10BrNO2
